US04940710
7-[3-(5-Chloro-3-methylbenzo[b]thien-2-yl)-1-piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A 3.0 g portion of 2-(5-chloro-3-methylbenzo[b]thien-2-yl)piperazine was added to 5 ml of pyridine. A 1.01 g portion of 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid was added and the mixture was heated in a pressure bottle, under argon at 130°-135° C. for 18 hours, then cooled and placed in an ice bath. The resulting crystals were collected, washed with cold pyridine, dichloromethane and ether and recrystallized from dimethylformamide, giving 401 mg of the desired product, mp 300°-305° C.

reactant | 2-(5-chloro-3-methylbenzo[b]thien-2-yl)piperazine | ClC1=CC2=C(SC(=C2C)C2NCCNC2)C=C1 | C13H15ClN2S
reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | ClC1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C12H9ClFNO3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 7-[3-(5-Chloro-3-methylbenzo[b]thien-2-yl)-1-piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 401 mg | ClC1=CC2=C(SC(=C2C)C2CN(CCN2)C2=C(C=C3C(C(=CN(C3=C2)CC)C(=O)O)=O)F)C=C1 | C25H23ClFN3O3S
